US07217848B2
Synthesis of Ph2P(CH2)3P(H)Ph
In a Schlenk flask were placed phenylphosphine (3.3806 g, 30.71 mmol) with THF (60 ml) and chilled to −30° C. in a freezer over 30 minutes. To this solution was added lithium diisopropylamide (16 ml, 32.16 mmol) and the resulting solution was allowed to warm to room temperature while stirring. In a 250 ml Schlenk flask was placed (C6H5)2P(CH2)3Cl (7.9089 g, 30.1 mmol) in 100 ml THF and the solution was cooled to −78° C. The lithium phenylphosphide solution was added to the (C6H5)2P(CH2)3Cl solution at such a rate that the temperature of the solution remained constant at −78° C. After addition, the solution was slowly warmed to room temperature. Degassed DI water (0.2 ml) was added to the dark orange solution. The color changed to yellow-orange. The solvents were removed in vacuo. The resulting gel was dissolved in toluene and filtered through Celite. Toluene was then removed in vacuo, leaving an orange-yellow oil. Yield: 10.0 g (99.1%). 31P{1H} NMR (CDCl3, 122 MHz, δppm: −16.30 and −52.86 (>99% pure). 1H NMR (CDCl3, 400 MHz, δ: 1.58–2.15 (3 complex peaks integrated to ˜7Hs), 4.12 (d of t, H—P) and 7.26–7.43 (complex pattern).

reactant | phenylphosphine | 30.71 mmol, 3.3806 g | C1(=CC=CC=C1)P | C6H7P
reactant | lithium diisopropylamide | 32.16 mmol, 16 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | (C6H5)2P(CH2)3Cl | 30.1 mmol, 7.9089 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCCl | C15H16ClP
reactant | lithium | [Li] | Li
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | DI water | 0.2 ml | O | H2O
product | Ph2P(CH2)3P(H)Ph | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCPC1=CC=CC=C1 | C21H22P2
